US09334290B2
A suspension of 2-amino-4-bromo-5-fluorobenzoic acid (10.0 g, 42.7 mmol) in a mixture of 37% aqueous HCl (42.7 mL) and water (14.3 mL), cooled with a NaCl -ice bath, was treated dropwise with a solution of sodium nitrite (3.24 g, 47.0 mmol) in water (15.7 mL). When addition was complete, the mixture was stirred for 30 min more. A solution of tin(II) chloride dihydrate (28.9 g, 128 mmol) in 37% aqueous HCl (27.5 mL) was added dropwise. The cooling bath was removed and the mixture was stirred at room temperature for 45 min. The thick suspension was filtered and the collected precipitate was washed thoroughly with water and dried overnight under reduced pressure. The solid was triturated with MeOH with sonication, and the precipitate was collected by filtration, washed with MeOH and dried. The filtrate was concentrated, and the residue was triturated with DCM. The resulting solid was collected by filtration, dried and combined with the other solid to give 4-bromo-5-fluoro-2-hydrazinylbenzoic acid hydrochloride (5.37 g, 44% yield) as a white solid. Mass spectrum m/z 249, 251 (M+H)+.

reactant | 2-amino-4-bromo-5-fluorobenzoic acid | 42.7 mmol, 10.0 g | NC1=C(C(=O)O)C=C(C(=C1)Br)F | C7H5BrFNO2
reactant | sodium nitrite | 47.0 mmol, 3.24 g | N(=O)[O-].[Na+]
reactant | tin(II) chloride dihydrate | 128 mmol, 28.9 g | O.O.[Sn](Cl)Cl
solvent | HCl | 42.7 mL | Cl | ClH
solvent | water | 14.3 mL | O | H2O
solvent | water | 15.7 mL | O | H2O
solvent | HCl | 27.5 mL | Cl | ClH
product | 4-bromo-5-fluoro-2-hydrazinylbenzoic acid hydrochloride | 5.37 g, 44% yield | Cl.BrC1=CC(=C(C(=O)O)C=C1F)NN | InChI=1S/C7H6BrFN2O2.ClH/c8-4-2-6(11-10)3(7(12)13)1-5(4)9;/h1-2,11H,10H2,(H,12,13);1H
